US08835432B2
2-((1S)-1-(8-Fluoro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione (9.10 g, 19.2 mmol), and hydrazine hydrate (9.32 mL, 192 mmol) were added to EtOH (190 mL). After heating at 65° C. for 3 h, the resultant slurry was cooled to rt, diluted with 900 mL of EtOAc, and filtered through a fritted funnel. The filtrate was washed with H2O (3×200 mL), brine(1×200 mL) and then dried over MgSO4 before being concentrated under vacuum to give (1S)-1-(8-fluoro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)ethanamine (6.06 g, 17.6 mmol, 92% yield) as a light orange solid. The proton NMR reflects a 73/27 ratio of atropisomers at 25° C. 1H NMR (500 MHz, CDCl3) δ ppm 8.55 (d, J=1.5 Hz, 0.73H), 8.50 (d, J=1.5 Hz, 0.27H), 8.26 (dd, J=8.1, 1.2 Hz, 0.27H), 8.23 (dq, J=7.8 1.2 Hz, 0.73H), 7.73 (m, 3H), 7.52 (m, 1.27H), 7.40 (m, 1.73H), 4.16 (q, J=6.6 Hz, 0.27H), 4.03 (q, J=6.4 Hz, 0.73H), 3.36 (s, 0.79H), 3.17 (s, 2.21H), 1.36 (m, 3H). Mass Spectrum (ESI) m/e=345.2 (M+1).

reactant | 2-((1S)-1-(8-Fluoro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | 19.2 mmol, 9.10 g | FC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)S(=O)(=O)C)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C26H19FN2O4S
reactant | hydrazine hydrate | 192 mmol, 9.32 mL | O.NN
reactant | EtOH | 190 mL | CCO | C2H6O
solvent | EtOAc | 900 mL | CCOC(=O)C | C4H8O2
product | (1S)-1-(8-fluoro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)ethanamine | 17.6 mmol, 6.06 g, 92% yield | FC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)S(=O)(=O)C)[C@H](C)N | C18H17FN2O2S
